US06555539B2
5-Amino-4-bromo-isoquinoline (see Gordon et al., J. Heterocycl. Chem., 4, 1967, 410-411) (1.86 g, 8.34 mmol) was stirred in 48% fluoroboric acid (15 mL)/EtOH (15 mL) until completely dissolved. The solution was cooled to 0° C., and sodium nitrite (660 mg, 9.59 mmol) in H2O (1 mL) was added dropwise. The solution was diluted with Et2O (30 mL), and the tan diazonium fluoroborate salt was collected by filtration and dried under vacuum. The solid was placed in a flask and carefully heated over a flame to expel nitrogen. The dark brown residue was diluted with 10% NaOH and extracted with chloroform. Organics were washed with brine, dried over MgSO4, and concentrated in vacuo. Purification by silica gel chromatography (40% to 50% ethyl acetate/hexanes) gave 798 mg (42%) of 4-bromo-5-fluoro-isoquinoline as a white solid. 1H NMR (300 MHz, CDCl3) δ9.36 (d, 1H, J=2.4 Hz), 8.74 (s, 1H), 8.07-8.11 (m, 1H), 7.70-7.80 (m, 2H). Anal. (C9H5BrFN) C, H, N.

reactant | 5-Amino-4-bromo-isoquinoline | 8.34 mmol, 1.86 g | NC1=C2C(=CN=CC2=CC=C1)Br | C9H7BrN2
reactant | EtOH | 15 mL | CCO | C2H6O
reactant | sodium nitrite | 9.59 mmol, 660 mg | N(=O)[O-].[Na+]
reactant | fluoroboric acid | 15 mL | F[B-](F)(F)F.[H+]
solvent | H2O | 1 mL | O | H2O
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 4-bromo-5-fluoro-isoquinoline | 798 mg, 42% | BrC1=CN=CC2=CC=CC(=C12)F | C9H5BrFN
